US06579984B1
1.50 g of methyl isobutyrylacetate (10.0 mmol, concentration 96%) and 1.24 g of 4-fluorobenzonitrile (10 mmol, concentration 98%) were dissolved in 10 ml of toluene and treated with 2.63 g of tin tetrachloride (10 mmol, concentration 99%) at room temperature over the course of 6 min. After 3 h at room temperature, the mixture was heated to 80° C. After 2.5 h, the suspension was again cooled to room temperature and treated with 10 ml of water. It was diluted with 5 ml of ethyl acetate and the phases were separated. After extraction of the aqueous phase with ethyl acetate (2×5 ml), the combined organic phases were dried over magnesium sulphate. After concentration in vacuo, 3.50 g of crude product were obtained in the form of a pale yellow, tacky solid. The solid was dissolved in ethyl acetate and purified by flash chromatography (n-hexane/ethyl acetate 5:1 to 1:1). After concentration in vacuo, 1.44 g of methyl 2-[1-amino-1-(4-fluorophenyl)-methylene]-4-methyl-3-oxopentanoate were obtained.

reactant | methyl isobutyrylacetate | 10.0 mmol, 1.50 g | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | 4-fluorobenzonitrile | 10 mmol, 1.24 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | tin tetrachloride | 10 mmol, 2.63 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | 10 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-[1-amino-1-(4-fluorophenyl)-methylene]-4-methyl-3-oxopentanoate | 1.44 g, Yield: 54.3% | NC(C1=CC=C(C=C1)F)=C(C(=O)OC)C(C(C)C)=O | C14H16FNO3
